US04159344
m-Pentafluoropropionamido phenyl isocyanate
Sixty-three and one half grams of m-amino pentafluoropropionanilide is dissolved in 150 ml of tetrahydrofuran containing 65 g. of triethylamine. This mixture is added dropwise with cooling to 37 g. of phosgene dissolved in 150 ml of tetrahydrofuran cooled to -5° C. When addition is complete the mixture is allowed to warm up to room temperature. The triethylamine hydrochloride is filtered off and the solvent is removed under vacuum. The product, 70 g., was not isolated but diluted to 140 ml with tetrahydrofuran and used in subsequent reactions.

reactant | m-amino pentafluoropropionanilide | Sixty-three and one half grams | NC=1C=C(NC(C(C(F)(F)F)(F)F)=O)C=CC1 | C9H7F5N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 150 ml, 65 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | m-Pentafluoropropionamido phenyl isocyanate | FC(C(=O)NC=1C=C(C=CC1)N=C=O)(C(F)(F)F)F | C10H5F5N2O2
